US08445509B2
Production of 1-(3-bromobutyl)-3-(4-fluorophenyl)urea
To a solution of 3-bromobutane-1-aminehydrobromide (2270 mg, 9.7 mmol) in pyridine (18 mL) was slowly added 1-fluoro-4-isocyanatobenzene (1600 mg, 12 mmol) under ice-cooling, and the mixture was stirred at room temperature for 2 hr. The solvent was evaporated under reduced pressure, ethyl acetate/tetrahydrofuran and 0.5N aqueous hydrochloric acid solution were added to the residue, and the aqueous layer was extracted with ethyl acetate/tetrahydrofuran (×3). The combined organic layer was washed with saturated brine, dried over anhydrous magnesium sulfate and filtered. The filtrate was concentrated under reduced pressure, and the residue was washed with ethyl acetate/hexane (=1/1) to give the title compound (1750 mg, 62%) as a white solid.

reactant | 3-bromobutane-1-aminehydrobromide | 9.7 mmol, 2270 mg | Br.BrC(CCN)C
reactant | 1-fluoro-4-isocyanatobenzene | 12 mmol, 1600 mg | FC1=CC=C(C=C1)N=C=O | C7H4FNO
solvent | pyridine | 18 mL | N1=CC=CC=C1 | C5H5N
product | 1-(3-bromobutyl)-3-(4-fluorophenyl)urea | 1750 mg, 62% | BrC(CCNC(=O)NC1=CC=C(C=C1)F)C | C11H14BrFN2O
